US04500680
Preparation of 2-Ethylhexyl 3,5-disulfobenzoate
Into a one-liter, four-necked round bottom flask equipped with a thermometer, distillation head, and a glass stirrer with TEFLON paddle were charged 177 grams of 2-propyl 3,5-disulfobenzoate solution in isopropyl alcohol and 200 grams of 2-ethylhexanol. The solution was vacuum distilled to a pot temperature of 105° C. and then held at this temperature for an additional three hours. The resultant 2-ethylhexyl 3,5-disulfobenzoate was a brown viscous oil with an acid value of 165.

reactant | 2-propyl 3,5-disulfobenzoate | 177 grams | S(=O)(=O)(O)C=1C=C(C(=O)OC(C)C)C=C(C1)S(=O)(=O)O | C10H12O8S2
reactant | 2-ethylhexanol | 200 grams | C(C)C(CO)CCCC | C8H18O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-Ethylhexyl 3,5-disulfobenzoate | S(=O)(=O)(O)C=1C=C(C(=O)OCC(CCCC)CC)C=C(C1)S(=O)(=O)O | C15H22O8S2
